US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using ethyl 2-(5-fluoro-2-nitroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate, ethyl acetate, 10% palladium-carbon and hydrogen (60 atm kg/cm2), ethyl 2-(2-amino-5-fluoroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-(5-fluoro-2-nitroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate | FC=1C=CC(=C(NC2=C(C3=C(S2)C=C(C=C3)OC)C(=O)OCC)C1)[N+](=O)[O-] | C18H15FN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-amino-5-fluoroanilino)-6-methoxybenzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=C(C=C3)OC)C(=O)OCC)C=C(C=C1)F | C18H17FN2O3S
